US06432993B1
(30-1) t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4′-hydroxybiphenyl-4-yloxy)phenyl}-N-methylcarbamate
A mixture of t-butyl N-[2-amino-5-(4′-hydroxybiphenyl-1-yloxy)phenyl]-N-methylcarbamate (0.61 g), 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (0.51 g), diethyl cyanophsphonate (0.29 g), triethylamine (0.18 g) and anhydrous tetrahydrofuran (10 ml) was stirred at ambient temperature for 2 days. The reaction mixture was concentrated and the residue was partitioned between ethyl acetate and water. The ethyl acetate layer was dried over anhydrous sodium sulfate. The ethyl acetate was distilled off under reduced pressure and the residue was purified by chromatography on a silica gel column using n-hexane/ethyl acetate=1/1 as the eluant to give the desired product.

reactant | t-butyl N-[2-amino-5-(4′-hydroxybiphenyl-1-yloxy)phenyl]-N-methylcarbamate | 0.61 g | NC1=C(C=C(C=C1)OC1(CC=CC=C1)C1=CC=C(C=C1)O)N(C(OC(C)(C)C)=O)C | C24H28N2O4
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 0.51 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | triethylamine | 0.18 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4′-hydroxybiphenyl-4-yloxy)phenyl}-N-methylcarbamate | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC=C(C=C2)C2=CC=C(C=C2)O)N(C(OC(C)(C)C)=O)C)C=C1 | C36H35N3O8S
